US07842685B2
To a solution of 3-ethoxycarbonylmethyl-azetidine-1-carboxylic acid tert-butyl ester (2.3 g, 0.095 mol) in 30 mL THF/MeOH/water (3:2:1) was added (0.477 g, 11.35 mmol) of LiOH*H2O at 0° C. The reaction mixture was stirred for 3 h at 25° C. Methanol and THF were removed in vacuo, and the reaction mixture was diluted with 50 mL water, and extracted with ethyl acetate. The aqueous layer was acidified with 2N HCl, extracted with ethyl acetate, and the organic layer was dried over Na2SO4, and concentrated to give 2-(1-(tert-butoxycarbonyl)-azetidin-3-yl)acetic acid. 1H-NMR (400 MHz, CDCl3), δ ppm 4.12-4.07 (m, 2H), 3.66-3.60 (m, 2H), 2.91-2.84 (m, 1H), 2.68-2.66 (m, 2H), 1.43 (s, 9H).

reactant | 3-ethoxycarbonylmethyl-azetidine-1-carboxylic acid tert-butyl ester | 0.095 mol, 2.3 g | C(C)(C)(C)OC(=O)N1CC(C1)CC(=O)OCC | C12H21NO4
reactant | LiOH | 11.35 mmol, 0.477 g | [Li+].[OH-]
solvent | THF MeOH water | 30 mL | C1CCOC1.CO.O
product | 2-(1-(tert-butoxycarbonyl)-azetidin-3-yl)acetic acid | C(C)(C)(C)OC(=O)N1CC(C1)CC(=O)O | C10H17NO4
